data/mechanisms/records/IMS9-EQ9.25d.json
{"mechanism_id": "IMS9-EQ9.25d", "species": [{"species_id": "ethylhexanal_molecular_ion", "mapped_smiles": "[CH3:6][CH2:5][CH:4]([1H:10])[CH2:3][CH:2]([CH2:8][CH3:9])[CH:1]=[O+:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "heptyl_cation_mz99", "mapped_smiles": "[CH3:6][CH2:5][CH:4]([1H:10])[CH2:3][CH+:2][CH2:8][CH3:9]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "formyl_radical", "mapped_smiles": "[CH:1]=[O:7]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ethylhexanal_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["heptyl_cation_mz99", "formyl_radical"]}], "steps": [{"step_id": "step_inductive", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_inductive", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive", "support_type": "textbook_proposed", "locator": {"page": 248, "equation": "9.25", "figure": null, "panel": null, "section": "9.3 Aldehydes and ketones (arrow labelled 'i')"}, "confidence": 0.7, "curator_note": "Substrate as drawn: the 2-ethylhexanal molecular ion, labelled 'm/z 128' under the structure. The skeleton is printed as C2H5-CH(H)-CH2-CH(C2H5)-CHO with the gamma hydrogen on C4 drawn EXPLICITLY, an aldehyde H on C1, and '+.' printed above the carbonyl oxygen. LOCALIZATION (convention B): the charge and odd electron are written on the oxygen exactly where the page prints them, [CH:1]=[O+:7], not carried only in the JSON fields. Fourth channel: the arrow labelled with an italic 'i' running down-right to the FORMULA 'C4H9(C2H5)CH+ / m/z 99'. Charge-site-initiated (inductive) cleavage of the same C1-C2 bond that the alpha channel breaks, but with the charge MIGRATING to the alkyl fragment: C7H15+ (99.1168) plus the neutral formyl radical HC=O., the complement of the alpha channel's HC≡O+ / C7H15. pair. Book draws 0 arc(s) and NO product structure -- only the condensed formula -- so both moves are curator-supplied. ENCODING (the reason this is two one-electron moves and not one two-electron arrow): the precursor is an ODD-ELECTRON ion whose charge and radical both sit on oxygen, while the products are an even-electron cation and a neutral radical. The oxygen must therefore END neutral and spin-paired, so one electron of the breaking C1-C2 bond pairs with the oxygen's odd electron (move <1>) and the other stays on C1 as the formyl radical's unpaired electron (move <2>); C2, having lost both, becomes the cation. A single 2-electron arrow cannot express that, because it would leave the oxygen charged."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 128.1196, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_99", "species_id": "heptyl_cation_mz99", "step_id": "step_inductive", "observed_mz": 99.1168, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-04T00:00:00Z", "modified_at": "2026-08-04T00:00:00Z"}}
